US05356926
Methyl 4-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]benzenesulfonate
Following a procedure analogous to Example 12, 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid (300 mg, 1.1 mmol) and 402 mg, 1.8 mmol) methyl 4-aminobenzenesulfonate [obtained by catalytic hydrogenation of methyl 4-nitrobenzenesulfonate (Aldrich) followed by salt formation] provides 295 mg (56%) of product; mp 176.5°-177° C.

reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid | 1.1 mmol, 300 mg | COC1=CC2=C(SC(=C2OC(C)C)C(=O)O)C=C1 | C13H14O4S
reactant | methyl 4-aminobenzenesulfonate | NC1=CC=C(C=C1)S(=O)(=O)OC | C7H9NO3S
product | Methyl 4-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]benzenesulfonate | 295 mg, 56% | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NC2=CC=C(C=C2)S(=O)(=O)OC)C=C1 | C20H21NO6S2
